US06451805B1
1-Benzyl-3-(5-hydroxymethyl-2-furyl)pyrazolo[3,4-d]pyrimidine
0.6 g (1.97 mmol) of 1-benzyl-3-(5-formyl-2-furyl)pyrazolo[3,4-d]pyrimidine (Rf=0.65, SiO2, ethyl acetate) is treated with 60 mg of NaBH4 with good stirring in 20 ml of 1-propanol at room temperature. After 15 min, 50 ml of water and 2.5 ml of glacial acetic acid are added. After partially concentrating in a rotary evaporator, the mixture is extracted with ethyl acetate, and the extract is dried and concentrated in a rotary evaporator after addition of toluene. After chromatography on SiO2, 74.8 mg (12.4% of theory) of product are obtained (m.p. 165° C., Rf=0.43, SiO2, ethyl acetate).

reactant | 1-benzyl-3-(5-formyl-2-furyl)pyrazolo[3,4-d]pyrimidine | 1.97 mmol, 0.6 g | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2)C=2OC(=CC2)C=O | C17H12N4O2
reactant | NaBH4 | 60 mg | [BH4-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
solvent | 1-propanol | 20 ml | C(CC)O | C3H8O
product | 1-Benzyl-3-(5-hydroxymethyl-2-furyl)pyrazolo[3,4-d]pyrimidine | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2)C=2OC(=CC2)CO | C17H14N4O2
